US07750014B2
A solution of methyl [4-[(2,2-dimethoxyethyl)amino]-2-(4-nitrobenzyl)pyrimidin-5-yl]acetate (1.00 g, 2.56 mmol) and HCl (1.0 M in water, 3.84 mL, 3.85 mmol) in dioxane (10 mL) was stirred at 85° C. for 1 hour. After the removal of the solvent in vacuo, water was added to the residue. The aqueous solution was neutralized by 1M NaOH and extracted with ethyl acetate. The extracts were washed with brine, dried over sodium sulfate, filtered and concentrated under reduced pressure. To the resulting crude product was added phosphorus oxychloride (1.4 mL) and the mixture was stirred at 85° C. for 3 hours. After the removal of the excess phosphorus oxychloride, the residue was dissolved with ethyl acetate. The organic layer was washed with water, sat.NaHCO3 and brine, dried over sodium sulfate, filtered and concentrated under reduced pressure. The crude product was purified by column chromatography on silica-gel, (chloroform:methanol, 98/2) to give methyl [5-(4-nitrobenzyl)imidazo[1,2-c]pyrimidin-8-yl]acetate (28 mg, 3%) as brown oil.

reactant | methyl [4-[(2,2-dimethoxyethyl)amino]-2-(4-nitrobenzyl)pyrimidin-5-yl]acetate | 2.56 mmol, 1.00 g | COC(CNC1=NC(=NC=C1CC(=O)OC)CC1=CC=C(C=C1)[N+](=O)[O-])OC | C18H22N4O6
reactant | HCl | 3.85 mmol, 1.0 M, 3.84 mL | Cl | ClH
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | methyl [5-(4-nitrobenzyl)imidazo[1,2-c]pyrimidin-8-yl]acetate | 28 mg, 3% | [N+](=O)([O-])C1=CC=C(CC2=NC=C(C=3N2C=CN3)CC(=O)OC)C=C1 | C16H14N4O4
